2124-09-13 10:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2124-9-12**] 02:30 PM
 MULTI LUMEN - START [**2124-9-12**] 08:00 PM
 ARTERIAL LINE - START [**2124-9-12**] 08:00 PM
   Remains intubated, mechanically ventilated.
   Received post-arrest cooling protocol overnight, temp @ 34.  Required
   paralytic [**Doctor Last Name **].
   Vasopressor d/c'd this AM, with preserved MAP >60 mmHg.
   Urine output reduced.
   Allergies:
   Last dose of Antibiotics:
   Meropenem - [**2124-9-13**] 05:39 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Vecuronium - 0.12 mg/Kg/hour
   Other ICU medications:
   Vecuronium - [**2124-9-12**] 06:41 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-13**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 79 (69 - 155) bpm
   BP: 114/51(73) {84/46(67) - 145/68(315)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 288)mmHg
   Total In:
                                                                  2,484 mL
                                                                    899 mL
   PO:
   TF:
   IVF:
                                                                  1,334 mL
                                                                    899 mL
   Blood products:
   Total out:
                                                                     33 mL
                                                                     70 mL
   Urine:
                                                                     33 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,451 mL
                                                                    829 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.37/45/77/25/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, right surgical pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Firm
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   9.6 g/dL
   224 K/uL
   139 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   29.6 %
   36.8 K/uL
        [image002.jpg]
                             [**2124-9-12**]  02:38 PM
                             [**2124-9-12**]  03:01 PM
                             [**2124-9-12**]  04:19 PM
                             [**2124-9-12**]  10:06 PM
                             [**2124-9-12**]  10:16 PM
                             [**2124-9-13**]  04:29 AM
                             [**2124-9-13**]  04:47 AM
   WBC
   26.4
   36.8
   Hct
   32.2
   29.6
   Plt
   272
   224
   Cr
   0.7
   0.9
   0.8
   TropT
   0.03
   0.03
   TCO2
   32
   29
   26
   27
   Glucose
   129
   164
   139
   Other labs: CK / CKMB / Troponin-T:139/4/0.03, ALT / AST:25/49, Alk
   Phos / T Bili:381/0.6, Amylase / Lipase:113/126,
   Differential-Neuts:91.2 %, Lymph:6.6 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:554 IU/L, Ca++:8.6 mg/dL,
   Mg++:3.1 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR ([**2124-9-13**]) bland opacification of right lung field
   (probable layering effusion)
   Assessment and Plan
   Sepsis, s/p cardio-pulmonary arrest.
   RESPIRATORY FAILURE -- intubated in context of cardio-pulmonary
   arrest.  Apparently precipitated by probable aspiration.  Evidence for
   pulmonary effusion, but no signs yet for ARDS (although at risk).  Also
   concern for anaphylaxis.  Possible contribution of COPD flare.  [**Month (only) 51**] be
   component of pulmonary edema (CHF) as BNP is elevated.  continue
   Mechanical ventilation, monitor ABG.
   S/P CARDIAC ARREST -- bradycardic --> asystolic, received CPR.
   Tolerating cooling --> strart rewarming.  r/o MI protocol.
   SEPSIS -- biliary source.  Continue support and antimicrobials.  Recent
   Enterobacter cholecystitis and E. coli urosepsis.
   Elevated WBC -- marked elevation, may in part be due to steroid bolus
   on background of sepsis.  Also consider new process such as
   intraabdominal infection, line-related infection, or C. diff
   enterocolitis.  Would empirically cover for C. diff, submit stool
   specimens.  Consider d/c PICC.
   RENAL FAILURE -- probable ATN in setting of hypotension (also recent
   episode of ATN).  Maintain intravascular volume status.  Monitor BUN,
   creatinine, UO; avoid nephrotoxins.
   BILIARY LEAK -- s/p cholecystectomy, now persistent leak.  Await
   another attempt for ERCP to place internal stent.
   FLUIDS -- intravascularly replete.  Maintain CVP>10 cm H2O.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.
   RIGHT HUMORAL HEAD Fx -- possible related to CODE.  Orthopedics
   consulted.  Support.  Obtain outside CXR for comparison and to
   determine timing of injury.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-9-12**] 02:30 PM
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Arterial Line - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2124-09-14 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2124-9-13**] 10:45 AM
   Remains intubated, mechanically ventilated.
   Received 1 U PRBC for low Hct last PM.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier,
   Intubated; Spanish speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-14**] 06:00 AM
   Vancomycin - [**2124-9-14**] 08:34 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-9-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2124-9-14**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 90 (86 - 112) bpm
   BP: 121/53(79) {89/41(56) - 148/72(104)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  4,668 mL
                                                                    661 mL
   PO:
   TF:
   IVF:
                                                                  4,668 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                    312 mL
                                                                    275 mL
   Urine:
                                                                    312 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,356 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.40/32/113/22/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, surgical right pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   201 K/uL
   86 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   16 mg/dL
   112 mEq/L
   145 mEq/L
   27.3 %
   25.5 K/uL
        [image002.jpg]
                             [**2124-9-12**]  10:06 PM
                             [**2124-9-12**]  10:16 PM
                             [**2124-9-13**]  04:29 AM
                             [**2124-9-13**]  04:47 AM
                             [**2124-9-13**]  12:21 PM
                             [**2124-9-13**]  12:42 PM
                             [**2124-9-13**]  06:05 PM
                             [**2124-9-13**]  08:21 PM
                             [**2124-9-14**]  03:48 AM
                             [**2124-9-14**]  04:23 AM
   WBC
   36.8
   32.4
   25.5
   Hct
   29.6
   24.3
   24.3
   27.3
   Plt
   [**Telephone/Fax (3) 1223**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   TropT
   0.03
   0.02
   TCO2
   26
   27
   24
   24
   Glucose
   164
   139
   173
   106
   86
   Other labs: PT / PTT / INR:17.4/40.1/1.6, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:29/56, Alk Phos / T Bili:314/0.6,
   Amylase / Lipase:353/930, Differential-Neuts:90.6 %, Lymph:5.8 %,
   Mono:3.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:514 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Urine culture -- yeast
   Assessment and Plan
   Sepsis, s/p arrest
   RESPIRATORY FAILURE -- persistent.  Intibated in context of aspiration
   and cardiac arrest.  Good progress.  Will maintain mechanical
   ventilation pending repeat ERCP.
   SEPSIS -- biliarey source.  Abdomen remains firm.  Good progress
   clinically.
   s/p CARDIAC ARREST -- s/p cooling.  Tolerated well.
   BILIARY LEAK -- awaiting ERCP for stent placement.
   INTRAABDOMINAL FLUID COLLECTION -- likely bile (less likely ascites or
   infection).  Plan U/S guided percutaneous drainage today (maintain
   drain).
   CHF -- diastolic dysfunction.  Monitor.
   NUTRITIONAL SUPPORT -- NPO.  Ileus.
   RENAL FAILURE -- probalble ATN.  Intravascularly replete.
   RIGHT HUMORAL HEAD Fx -- possible related to resussitation.  Orthopedic
   Consultation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Arterial Line - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-15 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2124-9-14**] 11:50 AM
   drain placed into bile collection in rt mid quadby radiology with use
   of ultrasnd at bedside. initial drain of 750 cc bile. speciman sent for
   cultures
   Remains intubated, mechanically ventilated.
   Remains off vasopressors.
   Tolerating net diuresis.
   Bedside percutaneous drainage of intraabdominal bilious collection -->
   drained > 1 L total.
   Much more awake, appropriate responses.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-15**] 12:17 AM
   Vancomycin - [**2124-9-15**] 08:20 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2124-9-14**] 12:12 PM
   Midazolam (Versed) - [**2124-9-14**] 12:13 PM
   Furosemide (Lasix) - [**2124-9-14**] 09:13 PM
   Heparin Sodium - [**2124-9-15**] 08:20 AM
   Famotidine (Pepcid) - [**2124-9-15**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-15**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 87 (74 - 105) bpm
   BP: 123/46(66) {123/46(66) - 123/46(66)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (6 - 18)mmHg
   Total In:
                                                                  1,735 mL
                                                                    585 mL
   PO:
   TF:
   IVF:
                                                                  1,444 mL
                                                                    585 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                  4,665 mL
                                                                  1,360 mL
   Urine:
                                                                  3,415 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
                                                                  1,250 mL
   Balance:
                                                                 -2,930 mL
                                                                   -775 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, right surgical pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Much more awake, appropriate
   Labs / Radiology
   9.2 g/dL
   218 K/uL
   70 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   13 mg/dL
   112 mEq/L
   147 mEq/L
   27.2 %
   19.3 K/uL
        [image002.jpg]
                             [**2124-9-13**]  04:29 AM
                             [**2124-9-13**]  04:47 AM
                             [**2124-9-13**]  12:21 PM
                             [**2124-9-13**]  12:42 PM
                             [**2124-9-13**]  06:05 PM
                             [**2124-9-13**]  08:21 PM
                             [**2124-9-14**]  03:48 AM
                             [**2124-9-14**]  04:23 AM
                             [**2124-9-14**]  03:02 PM
                             [**2124-9-15**]  03:55 AM
   WBC
   36.8
   32.4
   25.5
   20.5
   19.3
   Hct
   29.6
   24.3
   24.3
   27.3
   27.7
   27.2
   Plt
   [**Telephone/Fax (3) 1235**]17
   218
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   TropT
   0.02
   TCO2
   27
   24
   24
   Glucose
   139
   173
   106
   86
   78
   70
   Other labs: PT / PTT / INR:17.2/69.4/1.6, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:23/31, Alk Phos / T Bili:322/0.7,
   Amylase / Lipase:83/171, Differential-Neuts:81.7 %, Lymph:12.8 %,
   Mono:3.4 %, Eos:1.7 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:415 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Sepsis
   RESPRIATORY FAILURE -- continued, persisitent.  Attributed
   predominately to CHF (diastolic).
   S/P CARDIAOPULMONRY ARREST -- s/p cooling.  Neurological exam
   improved.  Continue neurological assessment.
   BILIARY LEAK -- s/p drainage of intraabdominal collection (likely
   secondary to leak).  Awaiting more definitive ERCP correction of bile
   leak today.  If unsuccessful --> surgical repair.
   SEPSIS -- responded to current treatment.  Continue suport.  Empirical
   antibiotics.
   S/P CHOLECYSTECTOMY -- stable.
   RENAL FAILURE -- Recovering.  Monitor UO, BUN, creatinine.
   HYPERNATREMIA -- provide free H2O
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Arterial Line - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-17 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday failed SBT for apnea but it was unclear if her sedation was
   off or not.
   D5W was stopped at midnight but regular insulin dose was given.  AM
   glucose of 25 -> given D50, FS glucose back up to 125
   RSBI this am was 123 with very low tidal volumes on SBT (150-200) but
   patient alert and appears comfortable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-15**] 08:20 AM
   Meropenem - [**2124-9-17**] 12:38 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-16**] 10:21 AM
   Famotidine (Pepcid) - [**2124-9-16**] 07:58 PM
   Dextrose 50% - [**2124-9-17**] 05:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 100 (80 - 110) bpm
   BP: 123/53(70) {97/41(54) - 129/56(73)} mmHg
   RR: 29 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  2,530 mL
                                                                    309 mL
   PO:
   TF:
   IVF:
                                                                  2,530 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    675 mL
   Urine:
                                                                  3,100 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
                                                                    400 mL
                                                                    175 mL
   Balance:
                                                                   -970 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 109 (109 - 394) mL
   RR (Set): 8
   RR (Spontaneous): 4
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 123
   RSBI Deferred: No Spon Resp
   PIP: 5 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No acute distress, intubated but not sedated
   HEENT: surgical R pupil
   CV: RRR. SEM at LSB
   Pulm: Reduced air movement
   Abd: soft, minimal dist, drain in place with bilious drainage
   Extr: 3+ pitting edema at ankles, WWP, Pulses 2+ and symmetric
   Labs / Radiology
   238 K/uL
   9.7 g/dL
   25 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   9 mg/dL
   102 mEq/L
   139 mEq/L
   27.8 %
   17.6 K/uL
         [image002.jpg]
                             [**2124-9-14**]  04:23 AM
                             [**2124-9-14**]  03:02 PM
                             [**2124-9-15**]  03:55 AM
                             [**2124-9-15**]  04:13 PM
                             [**2124-9-15**]  05:56 PM
                             [**2124-9-16**]  02:48 AM
                             [**2124-9-16**]  04:41 PM
                             [**2124-9-16**]  04:42 PM
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
   WBC
   20.5
   19.3
   17.6
   Hct
   27.7
   27.2
   28.0
   25.8
   27.6
   27.3
   27.8
   Plt
   [**Telephone/Fax (3) 1264**]38
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   24
   Glucose
   78
   70
   103
   108
   99
   25
   Other labs: PT / PTT / INR:15.9/29.7/1.4, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:25/29, Alk Phos / T Bili:533/0.5,
   Amylase / Lipase:74/161, Differential-Neuts:81.7 %, Lymph:12.8 %,
   Mono:3.4 %, Eos:1.7 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   LDH:384 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   82 yo F s/p cholecystectomy c/b bile leak transfered for intra-op ERCP
   -> hypoxic, bradycardic arrest, was intubated, now improving with drain
   and after repeat ERCP with stent placement.
   # Bile leak s/p drainage with biliary stent placed
   -per GI will pull cutaneous drain in 6 more days and will remove
   biliary stent in 8 weeks
   -follow LFTs, [**Doctor First Name **], lip
   #Respiratory failure: precipitated cardiac arrest with end organ renal
   and possible liver hypoperfusion, oliguria resolved and tolerating
   lasix diuresis.
   -Continue with 20 mg IV lasix to goal of -1L today
   -RSBI of 127 due to low tidal volumes but very small patient may not
   need large Vt
   -Transitioned well to PS
   -Attempt extubation this AM
   # Ileus [**2-26**] to ongoing bile leak
   -Continue NG tube decompression
   -hold TF until resolution of ileus
   # Hypoglycemia: [**2-26**] to d/c of D5W and continued insulin treatment
   -Half insulin dose while NPO without IV dextrose
   - monitor FS glucoses QACHS
   # UTI: patient with >100,000 CFU of Yeast despite foley change
   - Consider fluconazole for treatment
   # Oliguria: Resolved with normal Cr and good UOP
   # R humoral Fx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   82 yr old COPD, HTN, s/p chole, gallstone pancreatitis with ERCP
   drainage c/b hypoxic arrest, intubated and
   This AM - On PS 10/5 this AM, tachycardia (110s) and RR increased to
   low 20s but awake, less sedated.
   Serum glc 25 received 1 amp D50
   Vent settings currently [**10-29**], 40% FiO2, spont vt 150-200. Exam as
   above. Biliary drain intact 150 cc overnight.
   I/o negative ~ 1 L
   CXR shows moderate right pleural effusion with improved pulmonary edema
   Labs notable for K 3.7, glc now corrected, Alk phos trending down but
   still high at 533
   Meds reviewed
 include meropenem. Fent 12.5, versed 0.5
   Imp
 hx as above
   1)       Acute respiratory failure - remains ventilator dependent but
   appears to be weaning this AM. Will check ABG on PS. Does not appear
   ready at this time. Pleural effusions are at least moderate and are
   likely causing the low tidal volumes. Will need to diurese further and
   likely extubate in [**1-26**] days.
   2)        Ileus
 good bs but no bowel movements, start bowel regimen
   3)       Hypoglycemia
 lighten up ISS
   4)       Yeast UTI
 foley changed, repeat u/a and culture
   5)       ID
 on meropenem, culture if spikes. Left IJ is 5 days old.
   Full code. Critical care time 37 minutes. Plan discussed with team.
   Family updated.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-17**] 09:10 ------

2124-09-18 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2124-9-17**] 12:37 PM
 STOOL CULTURE - At [**2124-9-17**] 12:37 PM
   Remains intubated, mechanically ventilated.  Tolerating transiton to
   IPS mode for brief periods.  Minimal respiratory secretions.
   Weaning sedation, now off versed.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, Spanish speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-18**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-17**] 08:00 PM
   Famotidine (Pepcid) - [**2124-9-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, percutaneaous tube
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-18**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 122 (85 - 122) bpm
   BP: 122/45(64) {99/35(51) - 146/88(92)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 7 (7 - 21)mmHg
   Total In:
                                                                    976 mL
                                                                    435 mL
   PO:
   TF:
   IVF:
                                                                    926 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    850 mL
   Urine:
                                                                  2,815 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    150 mL
   Balance:
                                                                 -2,189 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 192 (89 - 420) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 14 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.34/68/86/33/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, surgical right pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, percutaneous drain
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   215 K/uL
   83 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   8 mg/dL
   105 mEq/L
   146 mEq/L
   28.4 %
   24.3 K/uL
        [image002.jpg]
                             [**2124-9-15**]  04:13 PM
                             [**2124-9-15**]  05:56 PM
                             [**2124-9-16**]  02:48 AM
                             [**2124-9-16**]  04:41 PM
                             [**2124-9-16**]  04:42 PM
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
                             [**2124-9-17**]  09:17 AM
                             [**2124-9-18**]  02:30 AM
                             [**2124-9-18**]  08:58 AM
   WBC
   17.6
   22.0
   24.3
   Hct
   28.0
   25.8
   27.6
   27.3
   27.8
   28.4
   Plt
   [**Telephone/Fax (3) 1272**]
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   35
   38
   Glucose
   103
   108
   99
   25
   83
   Other labs: PT / PTT / INR:16.1/29.1/1.4, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:19/22, Alk Phos / T Bili:438/0.9,
   Amylase / Lipase:65/121, Differential-Neuts:71.5 %, Band:0.0 %,
   Lymph:19.3 %, Mono:5.5 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:394 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   Biliary sepsis, resp. failure s/p cardiac arrest.
   RESPIRATORY FAILURE -- making progress, but not yet ready for
   extubation.  Continue to wean sedation.  Daily RSBI.  Advance ETT.
   SEPSIS -- good response to current management.  Monitor VS.  Complete
   anitimicrobials.
   s/p CARDIOPULMONARY ARREST -- good response.  s/p cooling.  Monitor VS,
   neurological exam.
   FLUIDS -- desire net diuresis.  Continue to follow I/O.  Aggressive KCl
   repletion to avoid contractoin alkalosis.
   BILIARY LEAK -- s/p ERCP biliary stent placement.  Continue to monitor
   bile collection dainage via percutaneous drain.
   RENAL FAILURE -- improvement.  monitor urine output, BUN, creatinine.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Discussed medical updates by phone with HCP
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-19 10:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-9-18**] 08:28 PM
   blood c/s 1 of 2
 BLOOD CULTURED - At [**2124-9-19**] 04:29 AM
   blood c/s 2 of 2
 URINE CULTURE - At [**2124-9-19**] 06:57 AM
   Remains intubated, mechanically ventilated.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Spanish-speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-19**] 06:25 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-18**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss, Low grade
   fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-19**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 107 (93 - 123) bpm
   BP: 113/51(65) {96/41(56) - 133/61(78)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.4 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                  1,049 mL
                                                                    836 mL
   PO:
             TF:
                                                                    132 mL
                                                                    348 mL
   IVF:
                                                                    857 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                    425 mL
   Urine:
                                                                  1,283 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                    110 mL
   Balance:
                                                                   -384 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 163
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, surgical right pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: bilateral,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Surgical midline scar; percutaneous drain
   RUQ
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   199 K/uL
   117 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   106 mEq/L
   145 mEq/L
   27.1 %
   22.9 K/uL
        [image002.jpg]
                             [**2124-9-15**]  05:56 PM
                             [**2124-9-16**]  02:48 AM
                             [**2124-9-16**]  04:41 PM
                             [**2124-9-16**]  04:42 PM
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
                             [**2124-9-17**]  09:17 AM
                             [**2124-9-18**]  02:30 AM
                             [**2124-9-18**]  08:58 AM
                             [**2124-9-19**]  03:15 AM
   WBC
   17.6
   22.0
   24.3
   22.9
   Hct
   25.8
   27.6
   27.3
   27.8
   28.4
   27.1
   Plt
   [**Telephone/Fax (3) 1281**]99
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   0.5
   TCO2
   35
   38
   Glucose
   103
   108
   99
   25
   83
   117
   Other labs: PT / PTT / INR:16.1/29.1/1.4, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:19/22, Alk Phos / T Bili:438/0.9,
   Amylase / Lipase:65/121, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:394 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Respiratory failure, sepsis (hepatobiliary).
   SEPSIS -- resolved.  Monitor VS now off vasopressor.
   RESPIRATORY FAILURE
 persistent.  Some progress with hemodynamics and
   level of awareness, but unfavorable RSBI.  Primary obstacle to
   extubation attempt appears to be CHF (vascular congestion and amall
   bilateral pleural effusions)
 diastolic dysfunction.
   CHF -- predominately diastolic dysfunction.  Continue to net diurese.
   Optimize cardiac function.
   BILIARY COLLECTION -- s/p percutaneous drainage.  Consider f/u CT to
   assess for reaccumulation of bile.
   BILE LEAK
 s/p intraductal stent placement.  Hope to observe decrease
   in biliary drainage from extrabiliary source.  ?persistent leak?
   ILEUS -- resolved.  Tolerating TF.
   SURGICAL INCISION -- remove staples.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Updated medical condition and progress
   dureing family meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-20 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Unfavorable RSBI, poor tolerance to reduced IPS settings --> tachypnea,
   tachycardia.
   Appears much more comfortable in bed.
   During AM rounds, tolerating IPS= 10 and PEEP= 5 settings, without any
   difficulty.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, Spanish-speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-20**] 05:46 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-19**] 08:20 PM
   Furosemide (Lasix) - [**2124-9-19**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-20**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 98 (94 - 120) bpm
   BP: 103/69(76) {103/30(58) - 163/69(110)} mmHg
   RR: 29 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.8 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                  2,071 mL
                                                                  1,007 mL
   PO:
             TF:
                                                                  1,141 mL
                                                                    406 mL
   IVF:
                                                                    850 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,758 mL
                                                                  1,155 mL
   Urine:
                                                                  1,648 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
                                                                     25 mL
   Balance:
                                                                    313 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (269 - 416) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 179
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.48/51/78/35/12
   Ve: 8.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   167 K/uL
   125 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   145 mEq/L
   25.7 %
   17.5 K/uL
        [image002.jpg]
                             [**2124-9-16**]  04:41 PM
                             [**2124-9-16**]  04:42 PM
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
                             [**2124-9-17**]  09:17 AM
                             [**2124-9-18**]  02:30 AM
                             [**2124-9-18**]  08:58 AM
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
   WBC
   22.0
   24.3
   22.9
   17.5
   Hct
   27.6
   27.3
   27.8
   28.4
   27.1
   25.7
   Plt
   238
   215
   199
   167
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   TCO2
   35
   38
   39
   Glucose
   99
   25
   83
   117
   125
   Other labs: PT / PTT / INR:16.1/29.1/1.4, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:17/21, Alk Phos / T Bili:365/0.6,
   Amylase / Lipase:65/121, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:361 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Sepsis, hepatobiliary source; bile leak; s/p arrest
   RESPIRATORY FAILURE -- presistent.  Persistent ventilator dependence
   likely attributed to CHF predominately.
   SEPSIS -- responded to therapy.  Continue to monitor.
   s/p ARREST -- s/p cooling.  Tolerated well.  Suspect arrest
   precipitated by aspiration.  Monitor VS.
   CHOLYCYSTECTOMY -- abd incision staples removed.
   BILE LEAK -- s/p ERCP placed stent.  Drainage decreasing.  Anticipate
   removal of pancreatic stent prior to biliary stent.  Monitor drainage.
   NUTRITIONAL SUPPORT -- tolerating TF.
   FLUIDS -- desire continued net negative balance.
   TACHYCARDIA -- likley contributing to CHF/diastolic dysfunction.
   Continue to titrate dose of Verapamil
   DECUBITUS ULCER -- local care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-21 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   day 10 of ventilation
   RSBI last night 150
   Overnight [**5-29**] 98%  RR 20-30s  FiO2 40%
   + diarrhea -C diffx1 negative
   -fentanyl drip weaned off this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-20**] 05:46 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-20**] 08:00 PM
   Furosemide (Lasix) - [**2124-9-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 109 (91 - 117) bpm
   BP: 117/60(74) {98/45(59) - 155/84(110)} mmHg
   RR: 34 (23 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.8 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                  2,445 mL
                                                                    553 mL
   PO:
             TF:
                                                                  1,213 mL
                                                                    358 mL
   IVF:
                                                                    902 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,180 mL
   Urine:
                                                                  2,235 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
                                                                     40 mL
   Balance:
                                                                    145 mL
                                                                   -627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (212 - 269) mL
   PS : 5 cmH2O
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.45/57/86/38/12
   Ve: 8.1 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Gen: Arousable to voice, NAD.
   Resp: Inspiratory rhonchi L>R. No crackles.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses. No rebound or guarding. Biliary drain in
   place.
   Extremities: Warm, well perfused, no edema.
   Labs / Radiology
   164 K/uL
   9.1 g/dL
   135 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.4 mEq/L
   13 mg/dL
   99 mEq/L
   144 mEq/L
   27.1 %
   17.8 K/uL
        [image002.jpg] Culture data: NGTD
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
                             [**2124-9-17**]  09:17 AM
                             [**2124-9-18**]  02:30 AM
                             [**2124-9-18**]  08:58 AM
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
                             [**2124-9-20**]  04:39 PM
                             [**2124-9-21**]  04:21 AM
   WBC
   22.0
   24.3
   22.9
   17.5
   17.8
   Hct
   27.3
   27.8
   28.4
   27.1
   25.7
   27.1
   Plt
   238
   215
   199
   167
   164
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   35
   38
   39
   41
   Glucose
   25
   83
   117
   125
   135
   Other labs: PT / PTT / INR:16.9/29.5/1.5, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:18/33, Alk Phos / T Bili:381/0.5,
   Amylase / Lipase:65/125, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:398 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Sepsis, hepatobiliary source; bile leak; s/p arrest
   RESPIRATORY FAILURE -- presistent.  Persistent ventilator dependence
   likely attributed to CHF predominately. Day 10 of ventilation.  Though
   RSBI was 150, patient is medically ready for extubation, alert and
   oriented, tolerated [**5-29**] overnight.  Unclear whether patient will ever
   have a better RSBI given her small stature, she will have small tidal
   volumes and increased RR.  Attempt trial of 0 Peep, if tolerates, will
   extubate later today.
   SEPSIS -- responded to therapy.  UCx x2 positive for yeast.  Day 2 of
   fluconazole.  Yeast sensitivities pending. Diarrhea C diff x1
   negative.  Next C diff pending.
   s/p ARREST -- s/p cooling.  Tolerated well.  Suspect arrest
   precipitated by aspiration.  Monitor VS.
   CHOLYCYSTECTOMY -- abd incision staples removed.
   BILE LEAK -- s/p ERCP placed stent.  Drainage decreasing.  Anticipate
   removal of pancreatic stent prior to biliary stent.  Monitor drainage.
   -remove drain tomorrow, per ERCP
   NUTRITIONAL SUPPORT
 stopped at 7am in anticipation of extubation
   today.
   FLUIDS -- desire continued net negative balance. Lasix prior to
   extubation. Goal -500 today.
   TACHYCARDIA
 MAT due to COPD, or secondary to infection.  Increased
   dose of Verapamil to 120mg q8h yesterday.  Consider IV rate control
   around extubation.
   DECUBITUS ULCER -- local care
   PPX: PPI, subQ heparin.
   ACCESS: RIJ, PIV
   FULL CODE
   DISPO: ICU, monitor post extubation
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2124-9-21**] 03:05 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-09-21 09:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode.
   Tolerated IPS= 5 overnight (> 12 hurs).
   RSBI remains high, however; maintains RR >30, although appears very
   compfortable.
   Narcotic drip d/c'd this AM.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Spanish-speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-20**] 05:46 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-20**] 08:00 PM
   Furosemide (Lasix) - [**2124-9-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-21**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (91 - 117) bpm
   BP: 117/60(74) {98/45(59) - 155/84(99)} mmHg
   RR: 34 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.8 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                  2,445 mL
                                                                    636 mL
   PO:
             TF:
                                                                  1,213 mL
                                                                    394 mL
   IVF:
                                                                    902 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,180 mL
   Urine:
                                                                  2,235 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
                                                                     40 mL
   Balance:
                                                                    145 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 255 (212 - 258) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 8 cmH2O
   SpO2: 97%
   ABG: 7.45/57/86/38/12
   Ve: 8 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   164 K/uL
   135 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.4 mEq/L
   13 mg/dL
   99 mEq/L
   144 mEq/L
   27.1 %
   17.8 K/uL
        [image002.jpg]
                             [**2124-9-16**]  11:54 PM
                             [**2124-9-17**]  04:00 AM
                             [**2124-9-17**]  09:17 AM
                             [**2124-9-18**]  02:30 AM
                             [**2124-9-18**]  08:58 AM
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
                             [**2124-9-20**]  04:39 PM
                             [**2124-9-21**]  04:21 AM
   WBC
   22.0
   24.3
   22.9
   17.5
   17.8
   Hct
   27.3
   27.8
   28.4
   27.1
   25.7
   27.1
   Plt
   238
   215
   199
   167
   164
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   35
   38
   39
   41
   Glucose
   25
   83
   117
   125
   135
   Other labs: PT / PTT / INR:16.9/29.5/1.5, CK / CKMB /
   Troponin-T:139/6/0.02, ALT / AST:18/33, Alk Phos / T Bili:381/0.5,
   Amylase / Lipase:65/125, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:398 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Resolving sepsis (hepatobiliary), s/p arrest, respiratory failure (CHF,
   diasolic dysfunction).
   RESPRIATORY FAILURE
 persistent, although overall improved.
   Tolerating SBT.  Predominant obstacle remains CHF (probable diastolic
   dysfunction).  Continue to treat CHF, replete Cl-.  Hope to work
   towards extubation trial.
   S/P ARREST
 good progress.  Awake, interactive, appropriate.  Continue
   to monitor.
   SEPSIS
 resolved.  Continue to monitor.
   BILE LEAK
 s/p ERCP placed stents.  Monitor.
   BILE COLLECTION
 s/p percutaneous drainage.  Now decreasing.
   RENAL FAILURE
 improved.  Monitor uo, BUN, creatinine.
   NUTRITIONAL SUPPORT
 TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-22 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-9-21**] 02:30 PM
 EKG - At [**2124-9-21**] 04:00 PM
   Up in chair.  Experiences episodes of tachypnea (RR= 30-40) but denies
   dyspnea.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Spanish-speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2124-9-20**] 05:46 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-21**] 12:15 PM
   Famotidine (Pepcid) - [**2124-9-21**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-22**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-26**] Minimal
   Pain location: abdomen
   Flowsheet Data as of  [**2124-9-22**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.5
   HR: 102 (88 - 111) bpm
   BP: 144/59(81) {109/45(62) - 152/86(95)} mmHg
   RR: 38 (25 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 44 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                  1,047 mL
                                                                     91 mL
   PO:
             TF:
                                                                    394 mL
   IVF:
                                                                    453 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    435 mL
   Urine:
                                                                  2,770 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     15 mL
   Balance:
                                                                 -1,763 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 198 (198 - 198) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 153
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.43/58/70/36/11
   Ve: 6.7 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Surgical right pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : bases),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: bases, Wheezes
   : scattered, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   173 K/uL
   102 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.7 mEq/L
   11 mg/dL
   102 mEq/L
   145 mEq/L
   25.7 %
   17.7 K/uL
        [image002.jpg]
                             [**2124-9-18**]  08:58 AM
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
                             [**2124-9-20**]  04:39 PM
                             [**2124-9-21**]  04:21 AM
                             [**2124-9-21**]  03:49 PM
                             [**2124-9-21**]  08:21 PM
                             [**2124-9-21**]  09:09 PM
                             [**2124-9-22**]  03:17 AM
   WBC
   22.9
   17.5
   17.8
   17.7
   Hct
   27.1
   25.7
   27.1
   25.7
   Plt
   199
   167
   164
   173
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   38
   39
   41
   40
   Glucose
   117
   125
   135
   126
   102
   Other labs: PT / PTT / INR:15.6/30.0/1.4, CK / CKMB /
   Troponin-T:14/1/<0.01, ALT / AST:19/26, Alk Phos / T Bili:356/0.7,
   Amylase / Lipase:65/74, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:417 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   Respiratory distress; s/p arrest;  s/p sepsis (biliary)
   RESPIRATORY DISTRESS -- remains intermittently Tachypneic, guarded, but
   denies dyspnea.  Multifactorial.  Predominately CHF (diastolic),
   pleurall effusions, perhaps underlying componant of COPD exacerbation.
   COPD -- probable underlying, but previously unappreciated.  Optimize
   COPD medications.
   BILIARY LEAK -- s/p stent placement.  Plan to remove 1 or both stents
   in the future, per ERCP.
   BILE COLLECTION -- percutaneous drainage decreasing, as expected.
   Maintain drain.
   SEPSIS -- biliary;  antimicrobials completed.
   CHF -- predominately diastolic.  Continue to treat.
   NUTRITIONAL -- initiate PO.  Monitor swallowing.
   FLUIDS -- desire net negative balance, work towards pre-admission
   weight (admission to OSH).
   TACHYCARDIA -- improved on high dose verapamil
   CHEST PAIN -- musculoskeletal, likely related to CPR
   s/p ARREST -- s/p cooling.  Stable.
   RIGHT SHOULDER Fx -- orthopedic evaluation
   PT consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Transfer to floor
   ------ Protected Section ------
   Error on above note.  Plan continue to monitor in ICU.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-22**] 12:39 ------
   MICU Attending Addendum:
   Discussion with daughter (Health Care Proxy).  Updated medical
   condition and answered all questions.  Daughter states that patient
   clearly states she does not wish to be reintubated in the event of
   clinical decompensation.  Daughter states that the patient has
   experienced much discomfort during her prolonged and complicated
   hospital course.  Although the daughter is hopeful that the patient
   will continue to make clinical gains, she understands she remains in
   guarded condition, particularly with regard to her respiratory status.
   The daughter states that if the patient experiences worsening overall
   condition, that she does not want her mother to suffer any longer.
   Thus, current course of management will continue, but in the event of
   clinical worsening, intubation will not be pursued.  In those
   circumstances, patient will be DNR/DNI.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-22**] 17:51 ------

2124-09-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remains tachypneic, but stable.  Tolerated thick liquids, OOB to chair.
   [**Female First Name (un) 1354**] speciated: [**Female First Name (un) 1363**]
   Prednisone started yesterday for possible COPD
   Bedside U/S of lungs showed minimal pleural effusion, decided not to
   tap.  Diuresed 2L yesterday w/ lasix.
   Family meeting yesterday, patient and family agree she will not be
   intubated if clincal worsening.  Goal is to return to [**Country 1190**]
   Republic.
   ERCP wants to take out pancreatic duct on Friday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-22**] 07:30 PM
   Famotidine (Pepcid) - [**2124-9-22**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-23**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 115 (93 - 115) bpm
   BP: 147/64(86) {114/49(66) - 167/70(94)} mmHg
   RR: 33 (26 - 45) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 44 kg (admission): 54 kg
   Height: 61 Inch
                  Total In:
                                                                    385 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    205 mL
   Blood products:
   Total out:
                                                                  2,613 mL
                                                                    295 mL
   Urine:
                                                                  2,580 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
                                                                     33 mL
   Balance:
                                                                 -2,228 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   8.8 g/dL
   116 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   11 mg/dL
   102 mEq/L
   146 mEq/L
   26.8 %
   19.1 K/uL
        [image002.jpg]
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
                             [**2124-9-20**]  04:39 PM
                             [**2124-9-21**]  04:21 AM
                             [**2124-9-21**]  03:49 PM
                             [**2124-9-21**]  08:21 PM
                             [**2124-9-21**]  09:09 PM
                             [**2124-9-22**]  03:17 AM
                             [**2124-9-23**]  04:58 AM
   WBC
   22.9
   17.5
   17.8
   17.7
   19.1
   Hct
   27.1
   25.7
   27.1
   25.7
   26.8
   Plt
   199
   167
   164
   173
   198
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   39
   41
   40
   Glucose
   117
   125
   135
   126
   102
   116
   Other labs: PT / PTT / INR:15.5/43.8/1.4, CK / CKMB /
   Troponin-T:14/1/<0.01, ALT / AST:16/24, Alk Phos / T Bili:342/0.7,
   Amylase / Lipase:65/57, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.7 g/dL, LDH:441 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   Respiratory distress; s/p arrest;  s/p sepsis (biliary)
   #RESPIRATORY DISTRESS
 48 hours post-extubation, remains tacypneic but
   doing well.  Tachypnea likely multifactorial.  Predominately CHF
   (diastolic), pleural effusions, perhaps underlying componant of COPD
   exacerbation.
   -02 via nasal cannula, sats 90-95% (do not want patient to retain C02,
   so ok to keep 02 sats <95%)
   - Diuresis with Lasix, goal -1 to -2L
   - Chest PT
   - 60mg po prednisone (day 2), start taper tomorrow if continued
   improvement
   - Nebs PRN
   - Chest PT
   - OOB to chair
   - If patient acutely decompensates, she does not want to be
   re-intubated.  Can use non-invasive ventilation.
   #Leukocytosis
Increase from 17 to 19 today likely [**2-26**] to steroid
   initiation.  Underlying leukocytosis, resolving, [**2-26**] sepsis and [**First Name5 (NamePattern1) 1354**]
   [**Last Name (NamePattern1) 1363**] infection. Foley changed Thursday [**9-21**].
   -Day [**5-8**] Fluconazole
   -f/u mycolytic blood cultures
   -daily CBC
   #CHF: Primarily diastolic.
   -Cont. Diuresis as above
   -Continue Amlodipine
   -Replete K+
   #Biliary leak -- s/p stent placement.  Plan to remove PD stent on
   Friday per ERCP
   #Bile collection-- percutaneous drainage decreasing.  ERCP following,
   will D/C when little to no output.
    #Sepsis
 [**2-26**] biliary pathology,  antimicrobials completed.
   # Tachycardia- stable on Amlodipine.
   # CHEST PAIN -- musculoskeletal, likely related to CPR
   # R shoulder fracture, ortho following, NTD.
   - PT consult.
   #FEN: Tolerating thick liquids, advance diet as tolerated.  Monitor
   swallowing.
   - desire net negative balance, work towards pre-admission weight 125.
   #Prophyaxis: On pneumoboots because her PTT keeps trending up with
   heparin.  SSI, Bowel regimen, PPI
   #Code:  DNR/DNI, confirmed with patient and daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2124-09-23 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 year old female with gallstone pancreatitis s/p ERCP c/b
   intra-procedure cardiac arrest. Extubated 2 days ago. Persistent bile
   leak
   24 Hour Events:
   Still tachypneic
   Family meeting: do not wish further intubation
   Sputum/Urine: c.tropicalis
   Started on prednisone for ?COPD exacerbation
   Diuresed 2 liters
   History obtained from Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-22**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-23**] 08:35 AM
   Famotidine (Pepcid) - [**2124-9-23**] 09:48 AM
   Other medications:
   famotidine, atrovent, advair, prednisone 40, vit D, Calcium, verapamil
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-23**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (82 - 115) bpm
   BP: 125/52(70) {100/42(56) - 167/70(94)} mmHg
   RR: 31 (26 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 44 kg (admission): 54 kg
   Height: 61 Inch
             Total In:
                                                                    385 mL
                                                                    100 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    205 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,613 mL
                                                                    470 mL
   Urine:
                                                                  2,580 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
                                                                     33 mL
   Balance:
                                                                 -2,228 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   198 K/uL
   116 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   11 mg/dL
   102 mEq/L
   146 mEq/L
   26.8 %
   19.1 K/uL
        [image002.jpg]
                             [**2124-9-19**]  03:15 AM
                             [**2124-9-20**]  04:42 AM
                             [**2124-9-20**]  06:31 AM
                             [**2124-9-20**]  04:39 PM
                             [**2124-9-21**]  04:21 AM
                             [**2124-9-21**]  03:49 PM
                             [**2124-9-21**]  08:21 PM
                             [**2124-9-21**]  09:09 PM
                             [**2124-9-22**]  03:17 AM
                             [**2124-9-23**]  04:58 AM
   WBC
   22.9
   17.5
   17.8
   17.7
   19.1
   Hct
   27.1
   25.7
   27.1
   25.7
   26.8
   Plt
   199
   167
   164
   173
   198
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   39
   41
   40
   Glucose
   117
   125
   135
   126
   102
   116
   Other labs: PT / PTT / INR:15.5/43.8/1.4, CK / CKMB /
   Troponin-T:14/1/<0.01, ALT / AST:16/24, Alk Phos / T Bili:342/0.7,
   Amylase / Lipase:65/57, Differential-Neuts:73.8 %, Band:0.0 %,
   Lymph:17.4 %, Mono:6.7 %, Eos:1.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.7 g/dL, LDH:441 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   82 year old female with COPD, HTN with gallstone pancreatitis
   complicated by brady arrest.
   Acute resp failure: improved status over past day likely from
   combintation of aggressive diuresis/steroids for obstructive airway
   disease.
     Continue diuresis and steroids (taper soon)
     Get OOB/PT consult
   Bile leak: discuss further plans with ERCP team
   CHF/diastolic dysfunction: continue diuresis and Verapamil
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-9-12**] 08:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: